US07763610B2
2-[(4-methoxybenzyl)oxy]-3-nitrobenzaldehyde
To a solution of 2-hydroxy-3-nitrobenzaldehyde (3 g) in dimethylformamide (20 mL) were sequentially added potassium carbonate (3.72 g), tetra-n-butylammonium fluoride (331 mg) and 1-(chloromethyl)-4-methoxybenzene (3.37 g), and the mixture was stirred for 11 hours at room temperature. The reaction mixture was poured into ice-water and the resulting mixture was extracted with ethyl acetate. The organic layer was washed sequentially with water and saturated brine, dried over anhydrous sodium sulfate and concentrated. The residue was washed with tert-butyl methyl ether to give the title compound (4.17 g) having the following physical data.

reactant | 2-hydroxy-3-nitrobenzaldehyde | 3 g | OC1=C(C=O)C=CC=C1[N+](=O)[O-] | C7H5NO4
reactant | potassium carbonate | 3.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(chloromethyl)-4-methoxybenzene | 3.37 g | ClCC1=CC=C(C=C1)OC | C8H9ClO
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
catalyst | tetra-n-butylammonium fluoride | 331 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-[(4-methoxybenzyl)oxy]-3-nitrobenzaldehyde | 4.17 g | COC1=CC=C(COC2=C(C=O)C=CC=C2[N+](=O)[O-])C=C1 | C15H13NO5
